US06472412B1
Diisopropyl azodicarboxylate (1.47 mL) is added to a solution of triphenylphosphine (1.96 g) in dry tetrahydrofuran (20 mL) with cooling to 0-5° C. under a nitrogen atmosphere. The pasty mixture is stirred for a further 30 minutes and then a solution of 5-methoxy-2-trityloxymethyl-4-pyridone (2.0 g) in dry tetrahydrofuran (25 mL) is added followed by the addition of cyclopentanol (0.68 mL). The mixture is stirred at reflux for 8 hours, cooled and the solvent removed in vacuo. The residue is diluted with water and extracted with ethyl acetate. The extracts are dried (MgSO4) and evaporated to give a brown oil. The oil is purified by flash chromatography (n-pentane/ethyl acetate 9:1 v/v as eluent on neutral alumina) to give 4-cyclopentyloxy-5-methoxy-2-trityloxypyridine (1.24 g) as a white solid, m.p. 132-30C. [Elemental analysis: C, 80.00; H, 6.70; N, 2.70%. calculated: C, 79.97; H, 6.71; N, 3.00%.].

reactant | Diisopropyl azodicarboxylate | 1.47 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 1.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-methoxy-2-trityloxymethyl-4-pyridone | 2.0 g | COC=1C(CC(=NC1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H23NO3
reactant | cyclopentanol | 0.68 mL | C1(CCCC1)O | C5H10O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-cyclopentyloxy-5-methoxy-2-trityloxypyridine | 1.24 g | C1(CCCC1)OC1=CC(=NC=C1OC)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29NO3
